US04249937
2-(1-ethoxyaminopropylidene)-5-[2-(4-chlorophenylthio)ethyl]-cyclohexane-1,3-dione (Compound No. 69)
1.6 g of 2-propionyl-5-[2-(4-chlorophenylthio)ethyl]cyclohexane-1,3-dione was allowed to react with 0.8 g of ethoxyamine at room temperature for 16 hours in 60 ml of methanol. After completion of the reaction, the resulting reaction solution was treated as in Example 1 to obtain oily product. Purification of the oily product by column chromatography gave 1 g of the desired compound as colorless oily material.

reactant | 2-propionyl-5-[2-(4-chlorophenylthio)ethyl]cyclohexane-1,3-dione | 1.6 g | C(CC)(=O)C1C(CC(CC1=O)CCSC1=CC=C(C=C1)Cl)=O | C17H19ClO3S
reactant | ethoxyamine | 0.8 g | C(C)ON | C2H7NO
solvent | methanol | 60 ml | CO | CH4O
product | 2-(1-ethoxyaminopropylidene)-5-[2-(4-chlorophenylthio)ethyl]-cyclohexane-1,3-dione | 1 g | C(C)ONC(CC)=C1C(CC(CC1=O)CCSC1=CC=C(C=C1)Cl)=O | C19H24ClNO3S
